US07199147B2
Acetic anhydride (4.49 ml, 47.6 mmol) was added dropwise to a solution of 4-amino-2-fluoro-3-methylphenol (2.80 g, 1.91 mmol) and pyridine (3.53 ml, 43.6 mmol) in ethyl acetate (60 ml) at room temperature, and the resulting mixture was slowly heated to 65° C. and stirred for 45 minutes while being maintained at this temperature. The resulting reaction solution was cooled to room temperature and partitioned by the use of water and ethyl acetate to find that an insoluble material was present. The insoluble material was collected by filtration and dried to obtain 4-(acetylamino)-2-fluoro-3-methylphenyl acetate (679 mg, 15%). The filtrate was concentrated and then extracted with chloroform to obtain a crude product, and the crude product was washed with ethyl acetate (8 ml)-hexane (24 ml) by repulping, collected by filtration and then dried to obtain 4-(acetylamino)-2-fluoro-3-methylphenyl acetate (3.54 g, 79%).

reactant | Acetic anhydride | 47.6 mmol, 4.49 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-amino-2-fluoro-3-methylphenol | 1.91 mmol, 2.80 g | NC1=C(C(=C(C=C1)O)F)C | C7H8FNO
reactant | pyridine | 43.6 mmol, 3.53 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 4-(acetylamino)-2-fluoro-3-methylphenyl acetate | 679 mg, 15% | C(C)(=O)OC1=C(C(=C(C=C1)NC(C)=O)C)F | C11H12FNO3
